US06610688B2
Synthesis of 5-[3-Methyl-5-(morpholine-4-carbonyl)-1H-pyrrol-2-yl-methylene]-4-piperidin-1-yl-5,7-dihydro-pyrrolo[2,3-D]pyrimidin-6-one (Formula 48)
A mixture of 4-chloro-5,7-dihydro-pyrrolo[2,3-d]pyrimidin-6-one (169 mg, 1 mmol), 3-methyl-5-(morpholine-4-carbonyl)-1H-pyrrole-2-carbaldehyde (222 mg, 1 mmol) and piperidine (2 drops) in ethanol (3 mL) was heated to reflux for overnight. The precipitate was collected by vacuum filtration, washed with ethyl acetate/hexane and dried to give 332.2 mg (79%) of the title compound as a yellow solid. MS 423 [M++1].

reactant | 4-chloro-5,7-dihydro-pyrrolo[2,3-d]pyrimidin-6-one | 1 mmol, 169 mg | ClC=1C2=C(N=CN1)NC(C2)=O | C6H4ClN3O
reactant | 3-methyl-5-(morpholine-4-carbonyl)-1H-pyrrole-2-carbaldehyde | 1 mmol, 222 mg | CC1=C(NC(=C1)C(=O)N1CCOCC1)C=O | C11H14N2O3
reactant | ethanol | 3 mL | C(C)O | C2H6O
catalyst | piperidine | 2 drops | N1CCCCC1 | C5H11N
product | 5-[3-Methyl-5-(morpholine-4-carbonyl)-1H-pyrrol-2-yl-methylene]-4-piperidin-1-yl-5,7-dihydro-pyrrolo[2,3-D]pyrimidin-6-one | 332.2 mg, 79% | CC1=C(NC(=C1)C(=O)N1CCOCC1)C=C1C(NC=2N=CN=C(C21)N2CCCCC2)=O | C22H26N6O3
